US08471019B2
2,9-Dibromo-7,14-bis-[4-(1-hexyl-heptyl)-phenyl]-5,12-dithia-pentacene
A mixture of 7.1 grams of 2,9-Dibromo-7,14-bis-[4-(1-hexyl-heptyl)-phenyl]-7,14-dihydro-5,12-dithia-pentacene and 2.6 grams of chloranil is heated in 100 ml ortho-dichloronezene at 150° C. for 4 hours. After cooling to 22° C., the reaction mixture is poured into 600 ml methanol, filtered off and washed three times with 50 ml methanol. The crude product is suspended in 80 ml acetone, stirred for one hour and filtered off. After drying in vacuum 3.0 grams 2,9-dibromo-7,14-bis-[4-(1-hexyl-heptyl)-phenyl]-5,12-dithia-pentacene are obtained as violet crystals. 1H-NMR(CHCl3): 7.26 (d, 4H, J=8 Hz); 7.04 (d, 4H, J=8 Hz); 6.98 (dd, 2H, J=8.5/2 Hz); 6.71 (d, 2H, J=8.5 Hz); 6.58 (d, 2H, J=2 Hz); 5.86 (s, 2H); 2.57 (m, 2H); 1.8-1.1 (m, 40H); 0.88 (t, 12H).

reactant | 2,9-Dibromo-7,14-bis-[4-(1-hexyl-heptyl)-phenyl]-7,14-dihydro-5,12-dithia-pentacene | 7.1 grams | BrC1=CC=2C(C3=CC=4SC5=CC=C(C=C5C(C4C=C3SC2C=C1)C1=CC=C(C=C1)C(CCCCCC)CCCCCC)Br)C1=CC=C(C=C1)C(CCCCCC)CCCCCC | C58H72Br2S2
reactant | chloranil | 2.6 grams | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | methanol | 600 ml | CO | CH4O
product | 2,9-Dibromo-7,14-bis-[4-(1-hexyl-heptyl)-phenyl]-5,12-dithia-pentacene | BrC1=CC=2C(=C3C=C4SC5=CC=C(C=C5C(=C4C=C3SC2C=C1)C1=CC=C(C=C1)C(CCCCCC)CCCCCC)Br)C1=CC=C(C=C1)C(CCCCCC)CCCCCC | C58H70Br2S2
